US08461372B2
Into a solution of 2-Amino-3-(4-amino-phenyl)-propionic acid octadecyl ester (100 g) in dry 1,4-dioxane (2000 ml) under Nitrogen atmosphere maintained at 20° C. was added a solution of triphosgene (163 g) in 1,4-Dioxane (200 ml) in one lot. The reaction mixture was heated and refluxed for 3 hours. The condenser was then arranged for distillation and solvent removed by distillation at atmospheric pressure until the volume of the reaction mixture was reduced to approximately one third. Fresh dry dioxane (200 ml) was added and distilled off under vacuum. The residue was dissolved in Toluene (200 ml) and charcoal (5 g) was added. The solution was filtered hot and the solvent was distilled under vacuum to yield crude diisocyanate which was again dissolved in a mixture of toluene:hexane (6:4; 400 ml) by heating to 80° C. for 15 minutes. The solution was filtered and the solvent mixture was distilled off under vacuum. Hexane was added to the precipitate and pure diisocyanate was filtered, dried and packed in tight container to yield 65 g of pure 2-Isocyanato-3-(4-Isocyanato-phenyl)-propionic acid octadecyl ester as a white powder with a melting point of 78-80° C. The product was further characterized by IR: 2261 cm−1 and IH NMR (CDCl3) δ 3.15-3.30 (m, 2H, CH2), 3.70 (s, 3H, OCH3), 5.05 (m, 1H, CH), 6.60 (d, 1H, NH), 7.00 (d, 2H, Ar), 7.05 (d, 2H, Ar), 7.15 (d, 2H, Ar), 7.60 (d, 2H, Ar)

reactant | 2-Amino-3-(4-amino-phenyl)-propionic acid octadecyl ester | 100 g | C(CCCCCCCCCCCCCCCCC)OC(C(CC1=CC=C(C=C1)N)N)=O | C27H48N2O2
reactant | triphosgene | 163 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,4-dioxane | 2000 ml | O1CCOCC1 | C4H8O2
reactant | 1,4-Dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | toluene hexane | 400 ml | C1(=CC=CC=C1)C.CCCCCC
product | 2-Isocyanato-3-(4-Isocyanato-phenyl)-propionic acid octadecyl ester | 65 g | C(CCCCCCCCCCCCCCCCC)OC(C(CC1=CC=C(C=C1)N=C=O)N=C=O)=O | C29H44N2O4
